US07429581B2
(iii) 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-5-propyl-2H-pyrazole-3-carboxylic acid
112 mg (0.5 mmol) of 4-cyano-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester was dissolved in 2 ml of DMF and 23.8 mg (0.6 mmol) of sodium hydride (60% in mineral oil) were added at RT. After stirring for 20 min at room temperature the solution was cooled to −70° C. and 166 mg (0.6 mmol) of 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole were added. The reaction was stirred at room temperature for 3 h. The reaction solution was treated with 1 ml of 2N aqueous NaOH for 16h at room temperature. The product was purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a white solid.

reactant | 4-cyano-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester | 0.5 mmol, 112 mg | C(C)OC(=O)C=1NN=C(C1C#N)CCC | C10H13N3O2
reactant | sodium hydride | 0.6 mmol, 23.8 mg | [H-].[Na+]
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 0.6 mmol, 166 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | NaOH | 2N, 1 ml | [OH-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-5-propyl-2H-pyrazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C(=C1C(=O)O)C#N)CCC | C16H13ClN4O3S
